US07713994B2
To a 0° C. mixture of [1-(4-nitro-phenyl)-piperidin-4-yl]-methanol and iodomethane (0.25 mL, 4.0 mmol) in N,N-dimethylformamide (3 mL) is added sodium hydride (60% dispersion in mineral oil, 80 mg, 2.0 mmol). The cooling bath is removed and the mixture is stirred at room temperature for five hours before it is re-cooled to 0° C. and quenched by the addition of saturated aqueous sodium hydrogen carbonate solution. The precipitated solid is collected by Büchner filtration, washed with water, and dried under house vacuum to give 4-methoxymethyl-1-(4-nitro-phenyl)-piperidine as pale yellow crystals (0.15 g, 60%).

reactant | [1-(4-nitro-phenyl)-piperidin-4-yl]-methanol | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)CO | C12H16N2O3
reactant | iodomethane | 4.0 mmol, 0.25 mL | IC | CH3I
reactant | sodium hydride | 2.0 mmol, 80 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-methoxymethyl-1-(4-nitro-phenyl)-piperidine | 0.15 g, 60% | COCC1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H18N2O3
